US05783572
6,7-Dichloro-2,3-dimethoxy-5-(1,2,4-triazol-1-ylmethyl)-quinoxaline (99 mg, 0.29 mmol) was heated in a mixture of 2M hydrochloric acid (2 mL) and dioxane (2 mL) at reflux for 3 hours. The solvent was removed under reduced pressure and the solid residue was suspended in water and filtered to give 1,4-dihydro-6,7dichloro-5-(1,2,4-triazol-1-ylmethyl)-quinoxalin-2,3-dione (60 mg, 62%) as a white solid, mp>320° C. Found: C, 39.47; H 2.49; N, 20.54. C11H7Cl2N5O2.1.25.H2O requires C, 39.48; H 2.86; N, 20.93%.

reactant | 6,7-Dichloro-2,3-dimethoxy-5-(1,2,4-triazol-1-ylmethyl)-quinoxaline | 0.29 mmol, 99 mg | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)CN1N=CN=C1 | C13H11Cl2N5O2
solvent | hydrochloric acid | 2M, 2 mL | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1,4-dihydro-6,7dichloro-5-(1,2,4-triazol-1-ylmethyl)-quinoxalin-2,3-dione | 60 mg, 62% | ClC=1C(=C2NC(C(NC2=CC1Cl)=O)=O)CN1N=CN=C1 | C11H7Cl2N5O2
